US05763489
A suspension of 6-diphenylmethyl-3(2H)-pyridazinone (0.58 g) and sodium hydride (60%, 110 mg) in dry N,N-dimethylformamide (7 ml) was stirred at 0° C. for 30 minutes. A solution of (5-methoxy-1,2,3,4-tetrahydro-2-naphthyl)methyl p-toluenesulfonate (0.77 g) in dry N,N-dimethylformamide (5 ml) was added dropwise to the suspension at room temperature. The mixture was stirred for 6 hours and poured into ice-1N hydrochloric acid and extracted with ethyl acetate. The extract was separated, washed with water (twice) and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (n-hexane: ethyl acetate=5:1~3:1) to give 2-[(1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone (0.61 g) as a pale yellow oil.

reactant | 6-diphenylmethyl-3(2H)-pyridazinone | 0.58 g | C1(=CC=CC=C1)C(C=1C=CC(NN1)=O)C1=CC=CC=C1 | C17H14N2O
reactant | sodium hydride | 110 mg | [H-].[Na+]
reactant | (5-methoxy-1,2,3,4-tetrahydro-2-naphthyl)methyl p-toluenesulfonate | 0.77 g | C1(=CC=C(C=C1)S(=O)(=O)OCC1CC2=CC=CC(=C2CC1)OC)C | C19H22O4S
solvent | N,N-dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 2-[(1,2,3,4-tetrahydro-5-methoxy-2-naphthyl)methyl]-6-diphenylmethyl-3(2H)-pyridazinone | 0.61 g | COC1=C2CCC(CC2=CC=C1)CN1N=C(C=CC1=O)C(C1=CC=CC=C1)C1=CC=CC=C1 | C29H28N2O2
